US06894054B2
5-[(2,6-dichlorophenyl)methylthio]-2-(pyrazin-2-yl)-1,3,4-thiadiazole, 12
To a solution of 2-pyrazinecarboxylic anhydride (2.2 g, 14.7 mmol) in 20 mL of methylene chloride was added hydrazine in THF (1 M, 15 mL), and the mixture stirred for 24 h. The reaction mixture was concentrated to an oil, diluted with methylene chloride and extracted 3 times with NaHCO3. The organic layer was dried over K2CO3, affording a colorless oil. The resulting hydrazide, 10, was used without further purification. Compound 10 was diluted with Lawesson's reagent (2.9 g, 7.2 mmol) in methylene chloride, and the reaction mixture heated to reflux for 12 h. The mixture was filtered and washed with additional methylene chloride and concentrated in vacuo to a bright yellow solid. This crude material and powdered KOH (1 g, 18 mmol) were stirred in 20 mL of ethanol. Carbon disulfide (0.56 g, 7.4 mmol) was added dropwise, and the reaction mixture was refluxed for 24 h. Volatiles were removed under vacuum, and the resulting solid, 11, was washed with methylene chloride/ethanol to remove soluble impurities. Crude 11 was stirred with DMF and 2,6-dichlorobenzylbromide (1.76 gm, 7 mmol). The reaction was warmed to 80° C. and stirred for 24 h. The mixture was partitioned between methylene chloride and 1N HCl. The aqueous layer was extracted twice with 1N HCl, and the organic layers washed with NaHCO3 and then brine, dried over K2CO3, and then concentrated to a yellow oil. Chromatography afforded an off white solid (1.37 g, 51%).

reactant | 2-pyrazinecarboxylic anhydride | 14.7 mmol, 2.2 g | N1=C(C=NC=C1)C(=O)OC(=O)C1=NC=CN=C1 | C10H6N4O3
reactant | hydrazine | NN | H4N2
reactant | Lawesson's reagent | 7.2 mmol, 2.9 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | KOH | 18 mmol, 1 g | [OH-].[K+]
reactant | Carbon disulfide | 7.4 mmol, 0.56 g | C(=S)=S | CS2
reactant | 2,6-dichlorobenzylbromide | 7 mmol, 1.76 gm | ClC1=C(CBr)C(=CC=C1)Cl | C7H5BrCl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 1 M, 15 mL | C1CCOC1 | C4H8O
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-[(2,6-dichlorophenyl)methylthio]-2-(pyrazin-2-yl)-1,3,4-thiadiazole | 1.37 g, 51% | ClC1=C(C(=CC=C1)Cl)CSC1=NN=C(S1)C1=NC=CN=C1 | C13H8Cl2N4S2
